US07338959B2
[4-(4-{[2-(4-Chloro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N2-(4-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (103 mg, 0.25 mmol) and (4-amino-phenyl)-methanesulfonamide (46 mg, 0.25 mmol) as a white solid (90 mg, 60%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.31 (s, 1H), 8.05 (br s, 1H), 7.72-7.80 (m, 3H), 7.46 (d, J=8.4 Hz, 2H), 7.38 (d, J=8.4 Hz, 2H), 7.32 (d, J=8.4 Hz, 1H), 7.20 (d, J=8.4 Hz, 2H), 7.14 (s, 1H), 6.93 (d, J=8.4 Hz, 1H), 6.78 (s, 2H), 5.66 (d, J=6.0H, 1H), 4.62 (d, J=5.4 Hz, 2H), 4.17 (s, 2H), 3.63 (s, 3H), 3.44 (s, 3H). MS (ESI) m/z=563 [M+H]+.

reactant | N2-(4-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 103 mg | ClC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C)C3=NC(=NC=C3)Cl)C=C1 | C20H18Cl2N6
reactant | (4-amino-phenyl)-methanesulfonamide | 0.25 mmol, 46 mg | NC1=CC=C(C=C1)CS(=O)(=O)N | C7H10N2O2S
product | [4-(4-{[2-(4-Chloro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride | Cl.ClC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC3=CC=C(C=C3)CS(=O)(=O)N)C)C=C1 | InChI=1S/C27H27ClN8O2S.ClH/c1-35(25-13-14-30-26(34-25)32-21-9-5-19(6-10-21)17-39(29,37)38)22-11-12-24-23(15-22)33-27(36(24)2)31-16-18-3-7-20(28)8-4-18;/h3-15H,16-17H2,1-2H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
